US08404915B2
Phenyldichlorophosphine (4.47 g, 25.0 mmol) was dissolved in 80 mL of toluene and then cooled to 0° C. under N2. Diethylamine (3.65 g, 50.0 mmol) was added dropwise and the resulting reaction mixture was allowed to warm-up to room temperature (ca. 20° C.) overnight (ca. 12 hrs). Reaction was then filtered and the liquid phase was concentrated to give 5.25 g (97% yield) of N,N-diethyl-phenylphosphoramidous chloride.

reactant | Phenyldichlorophosphine | 25.0 mmol, 4.47 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | Diethylamine | 50.0 mmol, 3.65 g | C(C)NCC | C4H11N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl-phenylphosphoramidous chloride | 5.25 g, 97% yield | C(C)N(P(C1=CC=CC=C1)(Cl)Cl)CC | C10H16Cl2NP
